US05530019
The procedure of Ex. 16 was repeated except that (E)-ethyl 4-[3-(4-isobutylcinnamoyl)-1-indolyl]butyrate obtained in Ex. 56 was used in place of ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate to give (E)-4-[3-(4-isobutylcinnamoyl)-1-indolyl]butyric acid as a powder.

reactant | (E)-ethyl 4-[3-(4-isobutylcinnamoyl)-1-indolyl]butyrate | C(C(C)C)C1=CC=C(/C=C/C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1 | C27H31NO3
reactant | ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
product | (E)-4-[3-(4-isobutylcinnamoyl)-1-indolyl]butyric acid | C(C(C)C)C1=CC=C(/C=C/C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=C1 | C25H27NO3
